US07517884B2
A solution of 7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane-6,8-dione (115 mg, 0.35 mmol) and THF (5 mL) was heated at 70° C. under N2. A solution of BH3.SMe2 (2M in THF, 0.7 mL, 1.4 mmol) was added dropwise. After 2.5 h, 6N HCl (1.0 mL) was added dropwise (Caution: H2 evolution). After an additional 30 min, the reaction was allowed to cool to rt, poured into 1N NaOH (8 mL), and extracted with dichloromethane (40 mL×2). The combined organic extracts were dried, filtered and concentrated to give 7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane: MS (ESI): 305.5 (M+H).

reactant | 7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane-6,8-dione | 0.35 mmol, 115 mg | FC(OC1=CC=C(C=C1)N1C(C2CSCC(C1=O)N2)=O)(F)F | C13H11F3N2O3S
reactant | SMe2 | 1.4 mmol, 2M, 0.7 mL | S(C)C | C2H6S
reactant | 4-(4-Trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 6N, 1.0 mL | FC(C1=CC=C(C=C1)C=1CCNCC1)(F)F | C12H12F3N
reactant | NaOH | 1N, 8 mL | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-(4-(trifluoromethoxy)phenyl)-3-thia-7,9-diazabicyclo[3.3.1]nonane | FC(OC1=CC=C(C=C1)N1CC2CSCC(C1)N2)(F)F | C13H15F3N2OS
